US05744643
Preparation of 2-chloro-5-trifluoromethylaniline
A degassed solution of 40 mmol of 2-chloro-5-trifluoromethylnitrobenzene (starting material) and 40 ml of xylene are placed in an autoclave (volume: 200 ml). 3.0 mmol of BINAS (in the form of 17.3 g of an aqueous solution containing 0.173 mol of BINAS/kg of solution) as phosphine and 2.4 g (60 mmol) of NaOH, 23.8 ml of H2O and 1.0 mmol of PdCl2 are added. The pH is from 10.5 to 11.0.

reactant | 2-chloro-5-trifluoromethylnitrobenzene | 40 mmol | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | phosphine | P | H3P
reactant | NaOH | 60 mmol, 2.4 g | [OH-].[Na+]
catalyst | PdCl2 | 1.0 mmol | Cl[Pd]Cl
solvent | H2O | 23.8 ml | O | H2O
product | 2-chloro-5-trifluoromethylaniline | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
